Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tegretol / Insulin,Beef / Insulin,Pork / Zaroxolyn
 
Attending: ___.
 
Chief Complaint:
shortness of breath  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ CAD s/p multiple PCI, CHF LVEF 70% (___), PVD, DMII, 
atrial fibrillation, COPD (on home O2), OSA was noted to become 
acutely dyspneic and hypoxic at ___. Per s/o from ED 
resident who spoke to ___ staff, pt was found in respiratory 
distress, but had been comfortable previously that day. She had 
some frothy sputum and chest pain. BIPAP initated in the 
ambulance, also given morphine. 
.  
On arrival to the ED, her HR was up to 130s she was given 5mg 
metoprolol, lasix 40mg IV, and nitro gtt with rapid improvement 
in her symptoms. Initial dose of lasix resulted in 600cc UOP. 
She was weaned from BIPAP to NRB then 5L NC maintaining sats in 
the low ___. CXR notable for marked fluid overload. Pt was 
febrile to 100.5 in the ED with WBC=15 (92% neutrophils), she 
did not receive Abx in the ED. Notably pt had WBC of 15 during 
last admission, unknown if it has been worked up subsequently, 
was thought at that time to be due to UTI and ?steroid skin 
cream.   
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. 
 
Past Medical History:
1. Coronary artery disease status post STEMI with 
catheterization with RCA bare metal stent for 90% lesion, past 
stents in ___ (RCA), ___ (___), ___ (RCA), ___ (RCA)  
2. Congestive heart failure with EF 50%  
3. Atrial fibrillation on coumadin, rate controlled  
4. Diabetes  
5. Hyperlipidemia  
6. Pulmonary hypertension  
7. MRSA endocarditis, VRE, pseudomonal sepsis  
8. Intubations x 2  
9. History of pulmonary embolus  
___. Chronic obstructive pulmonary disease  
11. Obstructive sleep apnea denies O2/CPAP  
12. Peripheral vascular disease  
13. Thyroid cancer status post resection and subsequent 
hypothyroidism  
14. Depression/anxiety  
15. Status post cholecystectomy  
___. Right hip ORIF  
17. Right above the knee amputation  
18. Left tib/fib distal fracture  
19. Status post right throcoscopy and decortication  
20. Status post L leg angiogram with angioplasty of AK-popliteal 
and anterior tibial arteries post ischemia and ulceration in 
___ 
.
.
CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension  
.  
CARDIAC HISTORY:  
-CABG: None  
-PERCUTANEOUS CORONARY INTERVENTIONS: See below  
Stents in ___ (RCA), ___ (___), ___ (RCA), ___ (RCA)  
-PACING/ICD: None  
 
Social History:
___
Family History:
Father died at ___ of myocardial infarction. Mother died of colon 
cancer. No other known family history of arrhythmia, 
cardiomyopathies, or sudden cardiac death; otherwise non- 
contributory. 
 
Physical Exam:
VS:  145/53, 65, 12, 95% 4L NC, 68kg
GENERAL: NAD. Oriented x2. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple without JVD 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. +b/l coarse rhonchi up 
to mid base  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Amputated RLE. LLE with signs of PAD and some 
ulcerations. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: DPs 1+ in LLE  
 
Pertinent Results:
___ 07:15AM BLOOD WBC-9.7 RBC-4.48 Hgb-10.8* Hct-34.0* 
MCV-76* MCH-24.1* MCHC-31.7 RDW-20.6* Plt ___
___ 07:15AM BLOOD Neuts-86.4* Lymphs-7.0* Monos-4.5 Eos-1.3 
Baso-0.7
___ 03:30AM BLOOD WBC-15.1* RBC-4.33 Hgb-10.6* Hct-32.6* 
MCV-76* MCH-24.5*# MCHC-32.5# RDW-20.9* Plt ___
___ 03:30AM BLOOD Neuts-92.0* Lymphs-4.0* Monos-3.2 Eos-0.7 
Baso-0.1
___ 07:15AM BLOOD ___ PTT-46.6* ___
___ 03:30AM BLOOD ___ PTT-41.9* ___
___ 07:15AM BLOOD Glucose-57* UreaN-11 Creat-0.8 Na-140 
K-3.8 Cl-99 HCO3-32 AnGap-13
___ 03:16PM BLOOD Glucose-261* UreaN-13 Creat-0.8 Na-136 
K-3.1* Cl-95* HCO3-29 AnGap-15
___ 03:30AM BLOOD Glucose-191* UreaN-16 Creat-1.0 Na-135 
K-3.6 Cl-96 HCO3-26 AnGap-17
___ 03:16PM BLOOD CK(CPK)-46
___ 10:53AM BLOOD CK(CPK)-48
___ 03:30AM BLOOD CK(CPK)-61
___ 03:16PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 10:53AM BLOOD CK-MB-NotDone cTropnT-0.01
___ 03:30AM BLOOD cTropnT-0.02*
___ 03:30AM BLOOD CK-MB-NotDone proBNP-9501*
___ 07:15AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.5
___ 03:30AM BLOOD TSH-1.2
___ 03:39AM BLOOD Lactate-2.0
.
.
.
CHEST XRAY
Final Report 
INDICATION: Respiratory distress. 
  
COMPARISON: Radiographs from ___ and ___. 
  
FINDINGS: A single bedside AP chest radiograph shows stable 
cardiomegaly.  
Mediastinal and hilar contours are unchanged. Bilateral 
interstitial 
opacities are redemonstrated. An opacity at the left lower lobe 
may represent 
a super-imposed consolidation. There is no pleural effusion. 
  
IMPRESSION: Redemonstration of bilateral interstitial lung 
disease, with 
possible superimposed left lower consolidation. Continued 
followup is 
recommended. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: WED ___ 11:53 AM 
.
.
.
ECHO
The left atrium is elongated. The right atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The right ventricular cavity is 
mildly dilated with normal free wall contractility. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild to moderate (___) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is severe 
pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved biventricular function. Biatrial enlargement. Mild 
aortic regurgitation. Mild to moderate mitral regurgitation. 
Moderate tricuspid regurgitation. Severe pulmonary artery 
systolic hypertension.

PRELIMINARY REPORT developed by a Cardiology Fellow. Not 
reviewed/approved by the Attending Echo Physician. 

Compared with the prior study (images reviewed) of ___, 
the severity of pulmonary artery systolic hypertension has 
increased. All other findings are similar.   
  Interpretation assigned to ___, MD, 
Interpreting physician  
.
.
.
Cardiology Report ECG Study Date of ___  4:06:02 AM 
Probable atrial fibrillation but with fairly organized atrial 
activity in the early precordial leads. Since the previous 
tracing atrial fibrillation is new. 
ST-T wave abnormalities persist. Clinical correlation is 
suggested.  
TRACING #2  
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
127 0 78 344/461 0 61 -106 
.
.
.
EKG
Cardiology Report ECG Study Date of ___  3:23:00 AM 
Baseline artifact. Sinus rhythm with Atrial premature beats. P-R 
interval 
prolongation. Early R wave progression. Q-T interval 
prolongation. ST-T wave 
abnormalities. Since the previous tracing of ___ atrial 
tachycardia with 
variable block is no longer seen. ST-T wave abnormalities are 
more prominent.  
TRACING #1 

Read by: ___. 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
84 182 76 422/___ 47 54 -99 
.
.

 
Brief Hospital Course:
___ h/o CAD, CHF, Afib, OSA, IDDM, PE, PVD now p/w acute 
dyspnea, cough, and AFib with RVR, WBC of 15, +u/a and CXR 
concerning initially for infectious process leading to RVR 
causing CHF exacerbation and acute pulm edema. Infx etiologies 
were thought to include UTI or PNA. Also with some TW inversions 
could not exclude coronary ischemic process leading to heart 
failure (CEs neg x3). 
.  
# Dyspnea: likely secondary to AFib with RVR which may be 
incited by infection given WBC 15. CXR c/w edema, although 
infiltrates may be obscured. pt has h/o COPD, OSA, pulm 
hypertension. during her stay the pt received 40IV lasix x2 
followed by her home dose of 100mg PO lasix with net output of 
nearly 3L. she was then further diuresed with a lasix drip, 
requiring 9mg/hr for 24 hrs. her O2 requirement returned to her 
normal level of 2L NC at home. she was also treated with 
combivent nebs and her home inhalers. on discharge the pt's 
respiratory status was improved, and she was feeling better. she 
was discharged with instructions to stop taking her home lasix 
and to start taking torsemide 60 qd. notably, during her 
hospitalization she was fluid restricted, but it is thought at 
rehab she drinks quite a bit of fluids so her fluid status 
should be closely monitored as an outpatient.
.
# AFib: initially pt was in AFib RVR up to 120s, she was given 
5mg lopressor IV in the ED and again on the floor. she was also 
titrated up on her metoprolol to 100mg TID and was also started 
on digoxin due to an episode of Afib with RVR where the patient 
was asymptomatic. she was sent home with digoxin 0.0625mg daily. 
her rate was then stabilized to sinus rhythm 60-80. she was 
monitored on telemetry without subsequent events.
.  
# Leukocytosis: last WBC was 15 in ___ at that time thought 
to be due to UTI and/or steroid cream. unknown if there was 
interval change in WBC. now pt has U/A c/w mild UTI and CXR may 
be concerning for PNA (edema may obscure infiltrate). 
blood/urine cultures were obtained (negative to date). sputum 
could not be obtained as pt did not have any productive cough. 
she was started on levoquin 500mg daily to cover her for UTI and 
possible health care associated pneumonia. after one day of 
antibiotics, her WBC returned to normal range 9. she is advised 
to continue her antibiotics for a total of 7 days (2 more days 
remaining).
.  
# CAD/CHF: known multivessel disease, has h/o STEMI and multiple 
stents (see PMH). EF>50% with inf/post wall hypokinesis on last 
echo in ___. Last MIBI in ___ was negative. Last cath ___ 
showed multivessel disease. Ischemic coronary event leading to 
heart failure was ruled out as Trp was stable at 0.07 for all 3 
sets of cardiac enzymes, and CK's were negative. We continued 
her home ASA and lasix 100mg PO daily. We did not feel that a 
stress test was necessary. A repeat ECHO did not show 
significant change from her prior with the exception that her 
pulmonary hypertension has worsened. 
.  
# h/o PE: stable currently, coumadin was titrated to 3mg daily 
for goal INR ___. she is instructed to continue her coumadin 2mg 
daily and to have her INR's checked within ___ days as levoquin 
can sometimes interfere with coumadin metabolism. 
.  
# PVD: has chronic LLE pain and ulcerations seen by vasc surgery 
as outpt. pain controlled by home meds: oxycontine 30 bid 
standing, morphine liq prn, tylenol prn. she received necessary 
wound care for her ulcerations. 
.  
# IDDM: seen by ___, currently stable. we continued her home 
standing dose glargine and ISS.
.  
# Hypothyroid: stable, her TSH was normal. we continued her home 
levothyroxine.
.
 
Medications on Admission:
tylenol prn
albuterol nebs prn
Aspirin 81 mg daily  
Bisacodyl 10 mg Tablet daily prn  
Bupropion HCl 100 mg Tablet Sustained ReleaseDAILY  
Clobetasol0.05 % Cream   
Clotrimazole 1 % Cream  
Cyanocobalamin 500 mcg TabletDaily  
Fexofenadine60 mg Tablet twice a day.  
Fluticasone-Salmeterol100-50 mcg twice a day.  
Furosemide 100 mg Tablet DAILY  
Insulin Glargine (22) units Subcutaneous at bedtime  
Insulin Lispro ___ units Subcutaneous qachs.  
Ipratropium Bromide 0.02 % Solution  
LEvothyroxine 225 mcg Tablet DAILY  
Lorazepam 0.5 mg Tablet every four (4) hours as needed  
Metoprolol Tartrate 75 mg Tablet BID (dosage uncertain) 
Oxycontin SR 30mg bid (standing) 
Morphine 10 mg/5 mL Solution every six (6) hours as needed  
Protonix 40mg PO daily.
Sennosides [Senna] 8.6 mg Tablet twice a day.  
Simvastatin 20 mg Tablet(Daily).  
Venlafaxine 112.5 mg Capsule, Sust. Release 24 hr DAILY  
Vitamin A-Vitamin C-Vit E-Min TABLET DAILY  
Warfarin 3MG DAILY  
Zolpidem 2.5 mg Tablet HS PRN  
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for SOB.  
3. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
6. Bupropion HCl 100 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO QAM (once a day (in the morning)).  
7. Cyanocobalamin 500 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
9. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Levofloxacin 250 mg Tablet Sig: Two (2) Tablet PO Q24H 
(every 24 hours) for 2 days.  
13. Zolpidem 5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for sleep.  
14. Venlafaxine 37.5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
15. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
16. Levothyroxine 75 mcg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
17. Oxycodone 30 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).  
18. Morphine 10 mg/5 mL Solution Sig: One (1)  PO Q6H (every 6 
hours) as needed for pain.  
19. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
20. Insulin Lispro 100 unit/mL Solution Sig: ___ U Subcutaneous 
QACHS: per sliding scale.  
21. Metoprolol Tartrate 25 mg Tablet Sig: Four (4) Tablet PO TID 
(3 times a day).  
22. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for SOB.  
23. Digoxin 125 mcg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
24. Torsemide 20 mg Tablet Sig: Three (3) Tablet PO once a day.  

25. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 
4 ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
-Atrial fibrillation with rapid ventricular response
-Acute on chronic diastolic heart failure
-Urinary tract infection

Secondary
-hypertension
-diabetes

 
Discharge Condition:
afebrile, stable vitals, sinus rhythm, tolerating POs

 
Discharge Instructions:
You were admitted to the hospital due to shortness of breath and 
a rapid heart rate. You were treated with lasix and medications 
for your heart rate. You were also given antibiotics for a 
bladder infection. Your breathing improved and you felt better 
upon discharge. You were not requiring any more than your usual 
home oxygen. Your echocardiogram did not show any concerns for 
acute causes of pulmonary edema. Please note the following 
changes to your medications: please stop taking lasix, and 
ativan (as it may over sedate you); please begin taking 
torsemide 60mg once a day, metoprolol 100mg three times a day, 
digoxin 0.0625mg daily, coumadin 3mg daily, levofloxacin 500mg 
once a day for 2 more days. 
.
Please keep your follow up appointments.
.
Please take all medications as prescribed.
.
If you have chest pain, shortness of breath, fever, or other 
concerning symptoms please seek medical attention or go to the 
ER.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 2 liters.
 
Followup Instructions:
___